US05734065
1,2-bis(2-methyl-5-trimethylsilyl-3-thienyl)hexafluorocyclopentene (2.16 g, 0.005 mol) was dissolved in chloroform (200 ml) and was allowed to react for 6 hours under refluxing conditions by adding concentrated hydrobromic acid (10 ml) to the solution. After the completion of the reaction, the chloroform layer was washed with an aqueous solution of sodium bicarbonate and the chloroform was removed under reduced pressures. The reaction product was purified by silicagel column chromatogram to give 1,2-bis(2-methyl-3-thienyl)hexafluorocyclopentene (1.8 g, 0.0049 mol).

reactant | 1,2-bis(2-methyl-5-trimethylsilyl-3-thienyl)hexafluorocyclopentene | 0.005 mol, 2.16 g | CC=1SC(=CC1C1=C(C(C(C1(F)F)(F)F)(F)F)C1=C(SC(=C1)[Si](C)(C)C)C)[Si](C)(C)C | C21H26F6S2Si2
reactant | hydrobromic acid | 10 ml | Br | BrH
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2-bis(2-methyl-3-thienyl)hexafluorocyclopentene | 0.0049 mol, 1.8 g | CC=1SC=CC1C1=C(C(C(C1(F)F)(F)F)(F)F)C1=C(SC=C1)C | C15H10F6S2
